US07405236B2
c] 5-(4-Trifluoromethyl-phenyl)-pent-4-ynoic acid (1H-indol-6-ylmethyl)-amide
In analogy to the procedure described for example 13 a], 5-(4-trifluoromethyl-phenyl)-pent-4-ynoic acid was reacted with 6-aminoethyl-1H-indole in the presence of 1-hydroxybenzotriazole, 4-ethylmorpholine and 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride to give the title compound as colorless crystals.

reactant | 5-(4-trifluoromethyl-phenyl)-pent-4-ynoic acid | FC(C1=CC=C(C=C1)C#CCCC(=O)O)(F)F | C12H9F3O2
reactant | 6-aminoethyl-1H-indole | NCCC1=CC=C2C=CNC2=C1 | C10H12N2
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-ethylmorpholine | C(C)N1CCOCC1 | C6H13NO
reactant | 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
product | 5-(4-Trifluoromethyl-phenyl)-pent-4-ynoic acid (1H-indol-6-ylmethyl)-amide | N1C=CC2=CC=C(C=C12)CNC(CCC#CC1=CC=C(C=C1)C(F)(F)F)=O | C21H17F3N2O
